US06511670B1
34.5 ml of a 1M solution of ethyl magnesium bromide in THF were added dropwise, at room temperature, to a solution of 5 grams of 1-undecyne in 15 ml of anhydrous THF, under an inert atmosphere with the addition complete, the mixture was maintained under stirring for 30 min at room temperature and then heated under reflux for 1 h 30 min. The mixture was cooled to room temperature and then 260 mg of copper(I) chloride were added and the mixture was again heated under reflux for 1 hour. The mixture was then cooled to room temperature and 11.3 g of 1,4-dichloro-2-butyne were added fairly rapidly. The mixture was refluxed for 1 h 30 min and then maintained under stirring for 15 h at room temperature before heating again under reflux for 3 h. The reaction medium was then cooled to 4° C. and hydrolyzed with care with a saturated aqueous solution of NH4Cl. The medium was then extracted 3 times with diethyl ether and the combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried over Na2SO4, filtered and concentrated under vacuum in a rotary evaporator. The oily residue containing 1,4-dichloro-2-butyne in excess was purified by distillation under reduced pressure to give 1-chloro-2,5-pentadecadiyne in the form of a colorless oil with a yield of 37.8%.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 1-undecyne | 5 grams | C#CCCCCCCCCC | C11H20
reactant | 1,4-dichloro-2-butyne | 11.3 g | ClCC#CCCl | C4H4Cl2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | copper(I) chloride | 260 mg | [Cu]Cl
product | 1-chloro-2,5-pentadecadiyne | yield of 37.8% | ClCC#CCC#CCCCCCCCCC | C15H23Cl
